US07060822B1
3-Isopropyl-5-methylpyrrole-2-carboxaldehyde
To a solution of anhydrous DMF (2.1 ml, 27 mmol) in anhydrous dichloroethane (50 ml) at 0° C. under nitrogen, POCl3 (2.1 ml, 23 mmol) was added dropwise. The solution was allowed to warm at room temperature for 1 h. Then, the suspension was cooled at 0° C. and a solution of 3-isopropyl-5-methylpyrrole (2 g, 16 mmol) in dichloroethane (20 ml) was added dropwise over 20 min. After stirring at room temperature for 24 h, water followed by NaOH were added to pH: 8. The organic layer was extracted, dried and the solvent removed to dryness. The residue was purified by flash chromatography. Yield 67%, m.p. 90–93° C.

reactant | DMF | 27 mmol, 2.1 ml | CN(C)C=O | C3H7NO
reactant | POCl3 | 23 mmol, 2.1 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 3-isopropyl-5-methylpyrrole | 16 mmol, 2 g | C(C)(C)C1=CNC(=C1)C | C8H13N
reactant | NaOH | [OH-].[Na+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 3-Isopropyl-5-methylpyrrole-2-carboxaldehyde | Yield 67% | C(C)(C)C1=C(NC(=C1)C)C=O | C9H13NO
